US06048868
Perchloric acid (2 drops) and active palladium-on-charcoal (130 mg) are added to a solution of 1 -(2-acetyl-6-methoxy-1 -methyl-2,3,4,9-tetrahydro- 1H-β-carbolin-7-yl)-1-ethanone (0.9 g) in ethyl acetate (150 mL). The mixture is stirred under a hydrogen atmosphere for 72 h. After filtration and evaporation of the solvent, the product is recrystallized from ethanol and 1-(7-ethyl-6-methoxy-1-methyl-2,3,4,9-tetrahydro-1H-β-carbolin-2-yl)-1-ethanone is obtained (80%).

reactant | 1 -(2-acetyl-6-methoxy-1 -methyl-2,3,4,9-tetrahydro- 1H-β-carbolin-7-yl)-1-ethanone | 0.9 g | C(C)(=O)N1C(C=2NC3=CC(=C(C=C3C2CC1)OC)C(C)=O)C | C17H20N2O3
catalyst | Perchloric acid | 2 drops | Cl(=O)(=O)(=O)O | ClHO4
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 130 mg | [Pd] | Pd
product | 1-(7-ethyl-6-methoxy-1-methyl-2,3,4,9-tetrahydro-1H-β-carbolin-2-yl)-1-ethanone | C(C)C1=C(C=C2C=3CCN(C(C3NC2=C1)C)C(C)=O)OC | C17H22N2O2
